US06143762
7-Bromo-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline
To a mixture of 7-bromo-1,2,3,4-tetrahydroisoquinoline (19.33 g, 0.091 mol) and triethylamine (16.6 ml, 0.119 mol) in dichloromethane (300 ml) was added a solution of methyl chloroformate (8.5 ml; 0.109 mol) in dichloromethane (30 ml), dropwise with ice cooling. Mixture was stirred for 3 h at room temperature then partitioned between saturated aqueous NaHCO3 (100 ml) and dichloromethane (100 ml). Organic phase was dried (Na2SO4) and evaporated in vacuo to give an oil. Chromatography on silica with 30% ethyl acetate-hexane as eluant gave the title compound as an oil (15.25 g, 62%).

reactant | 7-bromo-1,2,3,4-tetrahydroisoquinoline | 0.091 mol, 19.33 g | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | triethylamine | 0.119 mol, 16.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.109 mol, 8.5 ml | ClC(=O)OC | C2H3ClO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-Bromo-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline | 15.25 g, 62% | BrC1=CC=C2CCN(CC2=C1)C(=O)OC | C11H12BrNO2
